US04342587
Methyl 2-{[(5-chloropyrimidin-2-yl)aminocarbonyl]-aminosulfonyl}benzoate
2-Amino-5-chloropyrimidine (1.3 g) was suspended in 20 ml of methylene chloride and to this was added with stirring 2.4 g of methyl 2-(isocyanatosulfonyl)-benzoate. After stirring for three hours at ambient temperature, the desired product, 2-{[(5-chloropyrimidin-2-yl)aminocarbonyl]aminosulfonyl}benzoic acid, methyl ester, which had precipitated as a white solid, was filtered off. It melted at 217°-221° and showed peaks in the nuclear magnetic resonance spectrum (trifluoroacetic acid solvent) at 4.0δ (singlet) for OCH3, 9.0δ for H at the 4- and 6-position of the hetero ring and at 7.9δ and 8.2-8.4δ for aromatic H, consistent for the above-named product.

reactant | 2-Amino-5-chloropyrimidine | 1.3 g | NC1=NC=C(C=N1)Cl | C4H4ClN3
reactant | methyl 2-(isocyanatosulfonyl)-benzoate | 2.4 g | N(=C=O)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C9H7NO5S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-{[(5-chloropyrimidin-2-yl)aminocarbonyl]-aminosulfonyl}benzoate | ClC=1C=NC(=NC1)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C13H11ClN4O5S
